US04943568
Tert.-butyl Z-2-(2-acetamidothiazol-4-yl)but-2-enoate
The crude product of a 2.2 mol batch of tert.-butyl 4-chloro-2-ethylidene-3-oxobutyrate, dissolved in 100 ml of dimethylformamide, is added to a solution, warmed to 85° C., of 236 g (2 mol) of acetylthiourea in a mixture of 360 ml of water and 720 ml of dimethylformamide. The mixture is stirred at 85° C. for two hours and concentrated, the residue is taken up in ethyl acetate and the solution is extracted three times with water. After drying and concentrating, by-products are precipitated with ether.

reactant | tert.-butyl 4-chloro-2-ethylidene-3-oxobutyrate | ClCC(C(C(=O)OC(C)(C)C)=CC)=O | C10H15ClO3
reactant | acetylthiourea | 2 mol, 236 g | C(C)(=O)NC(=S)N | C3H6N2OS
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 360 ml | O | H2O
solvent | dimethylformamide | 720 ml | CN(C=O)C | C3H7NO
product | Tert.-butyl Z-2-(2-acetamidothiazol-4-yl)but-2-enoate | C(C)(=O)NC=1SC=C(N1)/C(/C(=O)OC(C)(C)C)=C/C | C13H18N2O3S
